US07381824B2
To a stirred solution of 7-methoxy-2-methylimidazo[1,2-α]pyridine-3-carboxylic acid (1.2 g, 5.82 mmol) in DMF (25 ml) was added EDCl (1.23 g, 6.41 mmol), HOBt (0.87 g, 6.41 mmol), N-methyl morpholine (767 ul, 11.64 mmol), methylamine (2M in THF, 6 ml, 11.64 mmol) and DMAP (70 mg, 0.58 mmol) sequentially, and the resulting mixture stirred at ambient temperature for 16 hours. The resulting solution was concentrated in-vacuo and pre-absorbed onto SiO2 and then purified by flash chromatography (eluting with 5-8% MeOH/DCM) to yield 7-Methoxy-N,2-dimethylimidazo[1,2-α]pyridine-3-carboxamide, 1.11 g, 87%, as a white solid.

reactant | 7-methoxy-2-methylimidazo[1,2-α]pyridine-3-carboxylic acid | 5.82 mmol, 1.2 g | COC1=CC=2N(C=C1)C(=C(N2)C)C(=O)O | C10H10N2O3
reactant | EDCl | 6.41 mmol, 1.23 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 6.41 mmol, 0.87 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 11.64 mmol, 767 ul | CN1CCOCC1 | C5H11NO
reactant | methylamine | 11.64 mmol, 2M, 6 ml | CN | CH5N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.58 mmol, 70 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-Methoxy-N,2-dimethylimidazo[1,2-α]pyridine-3-carboxamide | COC1=CC=2N(C=C1)C(=C(N2)C)C(=O)NC | C11H13N3O2
